US04153695
Preparation of 5-Methyl-7-pyrrolidino-2,3-dihydroimidazo[1,2-c]pyrimidine
Following the above procedure, but substituting N-methyl benzylamine for pyrrolidine, there was prepared N,5-dimethyl-7-benzylamino-2,3-dihydroimidazo[1,2-c]pyrimidine hydrochloride decomposing at 213° C. after recrystallization from ether.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | N,5-dimethyl-7-benzylamino-2,3-dihydroimidazo[1,2-c]pyrimidine hydrochloride | Cl.CN1CCN2C(N=C(C=C21)NCC2=CC=CC=C2)C
product | 5-Methyl-7-pyrrolidino-2,3-dihydroimidazo[1,2-c]pyrimidine | CC1=NC(=CC=2N1CCN2)N2CCCC2 | C11H16N4
